US04254124
Procedure 1. 1,2,4-Triazolo[4,3-a]pyridin-3(2H)-one
A mixture of 50 g. (0.44 mole) of 2-chloropyridine and 98.22 g. (0.88 mole) of semicarbazide hydrochloride in 150 ml. of 2-ethoxyethanol was heated to reflux and then treated with a solution of 1 ml. of concentrated sulfuric acid (36 N) in 5 ml. of 2-ethoxyethanol. The resulting solution was refluxed for 18 hr., cooled to about 60°, and treated with 150 ml. of water. The mixture was stirred, cooled to 0°, and kept 0.5 hr. and the solid was collected on a filter. The solid was washed well with water and dried under reduced pressure, to give 35.0 g (59%) of product, m.p. 230°-231°, which was sufficiently pure to be used for the next step.

reactant | 2-chloropyridine | 0.44 mole | ClC1=NC=CC=C1 | C5H4ClN
reactant | semicarbazide hydrochloride | 0.88 mole | Cl.NNC(=O)N
reactant | 2-ethoxyethanol | C(C)OCCO | C4H10O2
reactant | sulfuric acid | 36 N | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 1,2,4-Triazolo[4,3-a]pyridin-3(2H)-one | 35.0 g, 59% | N=1NC(N2C1C=CC=C2)=O | C6H5N3O
